### PR TITLE
[Merged by Bors] - feat(Topology/ContinuousFunction/CompactlySupported) bundle the class of compactly supported continuous functions

### PR DESCRIPTION
**Pull request by yoh-tanimoto**
give definitions of the class of compactly supported continuous functions and prove basic properties.

Motivation: This class is most natural for the domain of the Riesz-Markov-Kakutani theorem #12290

I copied [Mathlib.Topology.ContinuousFunction.ZeroAtInfty](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/ContinuousFunction/ZeroAtInfty.html#ZeroAtInftyContinuousMap) and am trying to adapt it to compactly supported functions.

### CODE REVIEW

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 1]
```diff
@@ -0,0 +1,700 @@
...
+variable [TopologicalSpace β] (x : α)
+
+instance instZero [Zero β] : Zero C_c(α, β) where
+  zero := { toFun := (0 : C(α, β))
+            continuous_toFun := (0 : C(α, β)).2
+            has_compact_support' := by
+              rw [HasCompactSupport, tsupport]
+              simp only [ContinuousMap.coe_zero, Function.support_zero', closure_empty,
+                isCompact_empty]
+}
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:178]:
```suggestion
                isCompact_empty] }
```

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 2]
```diff
@@ -0,0 +1,700 @@
...
+  rfl
+
+instance instMul [MulZeroClass β] [ContinuousMul β] : Mul C_c(α, β) :=
+  ⟨fun f g => ⟨f * g, HasCompactSupport.mul_left g.2⟩⟩
+
+@[simp]
+theorem coe_mul [MulZeroClass β] [ContinuousMul β] (f g : C_c(α, β)) : ⇑(f * g) = f * g :=
+  rfl
+
+@[simp]
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:197]: You don't need the simp attribute on this one, as the previous one will already apply.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 3]
```diff
@@ -0,0 +1,700 @@
...
+  ⟨0⟩
+
+@[simp]
+theorem coe_zero [Zero β] : ⇑(0 : C_c(α, β)) = 0 :=
+  rfl
+
+theorem zero_apply [Zero β] : (0 : C_c(α, β)) x = 0 :=
+  rfl
+
+instance instMul [MulZeroClass β] [ContinuousMul β] : Mul C_c(α, β) :=
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:190]: Don't name your instances in general, unless you have a good reason to do so. Same thing below.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 4]
```diff
@@ -0,0 +1,700 @@
...
+
+@[simp]
+theorem coe_mul [MulZeroClass β] [ContinuousMul β] (f g : C_c(α, β)) : ⇑(f * g) = f * g :=
+  rfl
+
+@[simp]
+theorem mul_apply [MulZeroClass β] [ContinuousMul β] (f g : C_c(α, β)) : (f * g) x = f x * g x :=
+  rfl
+
+-- the product of `(f : C(α, β))` and `(g : C_c(α, β))` is in `C_c(α, β)`
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:201]:
```suggestion
-- the product of `f : C(α, β)` and `g : C_c(α, β)` is in `C_c(α, β)`
```
In docstring, don't use parentheses around things which are already in quotes, the quotes make it already clear that it's a self-contained unit. Same thing elsewhere in the file.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 5]
```diff
@@ -0,0 +1,700 @@
...
+instance instSMulC [MulZeroClass β] [ContinuousMul β] : SMul C(α, β) C_c(α, β) :=
+  ⟨fun f g => ⟨f * g, HasCompactSupport.mul_left g.2⟩⟩
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:203]: Instead of registering this for `C(α, β)`, could you register this for any `ContinuousMapClass`? Even better, could you register this in the more general setting where you have a type gamma acting continuously on beta, for any `ContinuousMapClass` of functions from alpha to gamma?

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 6]
```diff
@@ -0,0 +1,700 @@
...
+
+instance instMulZeroClass [MulZeroClass β] [ContinuousMul β] : MulZeroClass C_c(α, β) :=
+  DFunLike.coe_injective.mulZeroClass _ coe_zero coe_mul
+
+instance instSemigroupWithZero [SemigroupWithZero β] [ContinuousMul β] :
+    SemigroupWithZero C_c(α, β) :=
+  DFunLike.coe_injective.semigroupWithZero _ coe_zero coe_mul
+
+-- need `[AddMonoid β]` here to apply `HasCompactSupport.add`
+instance instAdd [AddMonoid β] [ContinuousAdd β] : Add C_c(α, β) :=
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:223]: A `AddZeroClass` should be enough, here ane below. For this, can you fix the definition of `HasCompactMulSupport.mul`, requiring only `MulOneClass β`?

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 7]
```diff
@@ -0,0 +1,700 @@
...
+end AlgebraicStructure
+
+section Uniform
+
+variable [UniformSpace β] [UniformSpace γ] [Zero γ]
+variable [FunLike F β γ] [CompactlySupportedContinuousMapClass F β γ]
+
+lemma zero_at_infty_of_hasCompactSupport [TopologicalSpace β] [Zero β]
+    (f : C_c(α, β)) :
+    Filter.Tendsto f (Filter.cocompact α) (nhds 0) := by
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:379]:
```suggestion
    Filter.Tendsto f (Filter.cocompact α) (𝓝 0) := by
```

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 8]
```diff
@@ -0,0 +1,700 @@
...
+--     rw [← smul_eq_mul, ← smul_eq_mul, smul_comm]
+
+end AlgebraicStructure
+
+section Uniform
+
+variable [UniformSpace β] [UniformSpace γ] [Zero γ]
+variable [FunLike F β γ] [CompactlySupportedContinuousMapClass F β γ]
+
+lemma zero_at_infty_of_hasCompactSupport [TopologicalSpace β] [Zero β]
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:377]: This lemma only needs topological spaces, not uniform spaces, so it's a little bit strange to have it in the section `Uniform`. Also, this lemma means that you can (should?) instantiate a `ZeroAtInftyContinuousMapClass` instance here.

**Review by sgouezel — COMMENTED** [review]
This looks very good, thanks a lot! Here is a first round of comments on the first half of the file -- don't worry that there are many of them, it's the normal process!

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 9]
```diff
@@ -0,0 +1,700 @@
...
+universe u v w
+
+variable {F : Type*} {α : Type u} {β : Type v} {γ : Type w} [TopologicalSpace α]
+
+open BoundedContinuousFunction Topology Bornology
+
+open Filter Metric
+
+/-- `C_c(α, β)` is the type of continuous functions `α → β` with compact support from a topological
+space to a metric space with a zero element.
```
[the remark this answers is not in the document]
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:36]: thank you very much for your comments! sorry for my late reply, I will look at them now.
I will change the comment.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 3 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:185]: do you mean that I should remove all the names of the instances? As I took the naming from `ZeroAtInfty`, I'm not sure which one is ok.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 5 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:198]: Could you elaborate what I should do here? I suppose I should define `SMul` between `F` and `G` with `ContinuousMapClass F α β` and `CompactlySupportedContinuousMapClass G α β`, but I don't know how to get an object of type `G` from, say, `f : F`, `g : G` and `fun x => (f x) * (g x)`.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 6 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:218]: OK, I will edit Topology/Support.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 10]
```diff
@@ -0,0 +1,700 @@
...
+  ext <| IsEmpty.elim ‹_›
+
+/-- A continuous function on a compact space has automatically compact support. -/
+@[simps]
+def ContinuousMap.liftCompactlySupported [CompactSpace α] : C(α, β) ≃ C_c(α, β) where
+  toFun f :=
+    { toFun := f
+      continuous_toFun := f.continuous
+      has_compact_support' := by
+        simp only
```
[the remark this answers is not in the document]
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:136]: By browsing the file names, Topology/ContinuousFunction/Compact.lean seems the right file? But this is actually about `MetricSpace`. Is it ok to add the lemma here (for `TopologicalSpace`)?

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 2 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:192]: ok I will remove the attribute.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 8 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:372]: OK, I will register an instance.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 11]
```diff
@@ -0,0 +1,700 @@
...
+    rfl
+
+/-- A continuous function on a compact space has automatically compact support. This is not an
+instance to avoid type class loops. -/
+lemma compactlySupportedContinuousMapClass.ofCompact {G : Type*} [FunLike G α β]
+    [ContinuousMapClass G α β] [CompactSpace α] : CompactlySupportedContinuousMapClass G α β where
+  map_continuous := map_continuous
+  has_compact_support := by
+    intro f
+    exact IsCompact.of_isClosed_subset isCompact_univ (isClosed_tsupport f)
```
[the remark this answers is not in the document]
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean]: done.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 2 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean]: I removed `@[simp]` from `mul_apply`.

File: Mathlib/Topology/ContinuousFunction/Compact.lean [hunk 12]
```diff
@@ -41,6 +41,17 @@ namespace ContinuousMap
 variable {α β E : Type*} [TopologicalSpace α] [CompactSpace α] [MetricSpace β]
   [NormedAddCommGroup E]
 
+section Support
+
+variable {F γ : Type*} [Zero γ] [TopologicalSpace γ] [FunLike F α γ]
+
+/-- In a compact space `α`, any continuous function has compact support. -/
+theorem isCompact_tsupport_of_CompactSpace (f : F) :
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/Compact.lean:49]: The theorem name should match the statement. So it should be in terms of `HasCompactSupport`. Also, by the naming convention words do start with a lowercase letter. So
```suggestion
theorem hasCompactSupport_of_compactSpace (f : F) :
```
But the statement as written is not good, because you can see that it does not really involve `f`, only its coercion to functions. So there is no gain in having a `FunLike` type here, compared to just stating the result for functions.

Also, for now it's in the namespace `ContinuousMap`, while there is no `ContinuousMap` anywhere around in the statement. Better move it outside of this namespace, and probably to another file (`Mathlib.Topology.Support`, maybe?).

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 13]
```diff
@@ -0,0 +1,709 @@
...
+import Mathlib.Topology.ContinuousFunction.Compact
+import Mathlib.Topology.ContinuousFunction.ZeroAtInfty
+
+/-!
+# Compactly supported continuous functions
+
+The type of compactly supported continuous functions. When the domain is compact,
+`C(α, β) ≃ C_c(α, β)` via the identity map. When the codomain is a metric space, every continuous
+compactly supported map is a bounded continuous function. When the domain is a locally
+compact space, this type has nice properties.
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:17]: Could you be a little bit more specific in the file-level docstring, with a short introduction saying what the file is about, and then a section introduced with `## Main definitions and results` where you give the name of the main statements, and explain their content? Otherwise, someone just opening the file will need to browse through the whole file to find the name of the statements, and won't have any pointer to help.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 14]
```diff
@@ -0,0 +1,709 @@
...
+## TODO
+
+* Create more intances of algebraic structures (e.g., `NonUnitalSemiring`) once the necessary
+  type classes (e.g., `TopologicalRing`) are sufficiently generalized.
+-/
+
+
+universe u v w
+
+variable {F : Type*} {α : Type u} {β : Type v} {γ : Type w} [TopologicalSpace α]
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:28]: Most of the time, it's not needed to specify universes in Lean, unless in very specific situations. So I'd just go for
```suggestion
variable {F α β γ : Type*} [TopologicalSpace α]
```

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 15]
```diff
@@ -0,0 +1,709 @@
...
+
+/-- `C_c(α, β)` is the type of continuous functions `α → β` with compact support from a topological
+space to a topological space with a zero element.
+
+When possible, instead of parametrizing results over `(f : C_c(α, β))`,
+you should parametrize over `(F : Type*) [CompactlySupportedContinuousMapClass F α β] (f : F)`.
+
+When you extend this structure, make sure to extend `CompactlySupportedContinuousMapClass`. -/
+structure CompactlySupportedContinuousMap (α : Type u) (β : Type v) [TopologicalSpace α] [Zero β]
+    [TopologicalSpace β] extends ContinuousMap α β : Type max u v where
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:42]: Same thing, no need to specify the universes.
```suggestion
structure CompactlySupportedContinuousMap (α β : Type*) [TopologicalSpace α] [Zero β]
    [TopologicalSpace β] extends ContinuousMap α β where
```

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 16]
```diff
@@ -0,0 +1,709 @@
...
+
+/-- `CompactlySupportedContinuousMapClass F α β` states that `F` is a type of continuous maps with
+compact support.
+
+You should also extend this typeclass when you extend `CompactlySupportedContinuousMap`. -/
+class CompactlySupportedContinuousMapClass (F : Type*) (α β : outParam <| Type*)
+    [TopologicalSpace α] [Zero β] [TopologicalSpace β] [FunLike F α β]
+    extends ContinuousMapClass F α β : Prop where
+  /-- Each member of the class has compact support. -/
+  has_compact_support (f : F) : HasCompactSupport f
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:65]:
```suggestion
  hasCompactSupport (f : F) : HasCompactSupport f
```
Try to match the symbols. No underscores in `HasCompactSupport`, so no reason why you should introduce one here.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 17]
```diff
@@ -0,0 +1,709 @@
...
+space to a topological space with a zero element.
+
+When possible, instead of parametrizing results over `(f : C_c(α, β))`,
+you should parametrize over `(F : Type*) [CompactlySupportedContinuousMapClass F α β] (f : F)`.
+
+When you extend this structure, make sure to extend `CompactlySupportedContinuousMapClass`. -/
+structure CompactlySupportedContinuousMap (α : Type u) (β : Type v) [TopologicalSpace α] [Zero β]
+    [TopologicalSpace β] extends ContinuousMap α β : Type max u v where
+  /-- The function has compact support . -/
+  has_compact_support' : HasCompactSupport toFun
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:44]: Try to match the symbols. No underscores in HasCompactSupport, so no reason why you should introduce one here.
```suggestion
  hasCompactSupport' : HasCompactSupport toFun
```

File: Mathlib/Topology/ContinuousFunction/Compact.lean (hunk 12 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/Compact.lean:49]: OK, I will move this to `Mathlib.Topology.Support`, changing the name and for `f : α → γ` and pulling it outside the namespace.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 15 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:42]: I see, I will do this (same here, I followed the way of the old file)

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 13 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean]: I made the description a bit more specific. I think the main points of this file are the definitions and instances, and I wrote so.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 18]
```diff
@@ -0,0 +1,714 @@
...
+Whenever `β` has the structore of continuous addtive monoid and a compatible topological structure,
+then `C_c(α, β)` inherits a corresponding algebraic structure. The primary exception to this is that
+`C_c(α, β)` will not have a multiplicative identity.
+-/
+
+section AlgebraicStructure
+
+variable [TopologicalSpace β] (x : α)
+
+instance instZero [Zero β] : Zero C_c(α, β) where
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:167]: no need to name your instances, here and below (unless there is a good reason for it, you should remove all names given to instances in this file).
```suggestion
instance [Zero β] : Zero C_c(α, β) where
```

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 19]
```diff
@@ -0,0 +1,714 @@
...
+end AlgebraicStructure
+
+section ZeroAtInfty
+
+open ZeroAtInfty
+
+variable [TopologicalSpace β] [TopologicalSpace γ] [Zero γ]
+variable [FunLike F β γ] [CompactlySupportedContinuousMapClass F β γ]
+
+lemma zero_at_infty_of_hasCompactSupport (f : F) :
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:382]: The lemma name is not very good, since `hasCompactSupport` does not appear in the name. Instead, it should be `zero_at_infty_of_compactlySupportedContinuousMapClass`. But it's probably worth it to have a standalone lemma, in another file, saying that a function with compact support tends to zero at infinity -- and to use this lemma here to get a very short proof.

In fact, we already have this lemma, `HasCompactSupport.is_zero_at_infty`, so you should just use it to shorten your proof.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 20]
```diff
@@ -0,0 +1,714 @@
...
+-/
+
+
+section Metric
+
+open Metric Set
+
+variable [PseudoMetricSpace β] [Zero β] [FunLike F α β] [CompactlySupportedContinuousMapClass F α β]
+
+protected theorem bounded (f : F) : ∃ C, ∀ x y : α, dist ((f : α → β) x) (f y) ≤ C := by
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:427]: The full name of this theorem is `CompactlySupportedContinuousMap.bounded`. It's a little bit misleading, as it applies not only to `CompactlySupportedContinuousMap`, but in fact to all `CompactlySupportedContinuousMapClass`. So rather call it `CompactlySupportedContinuousMapClass.bounded`, i.e., don't put the results of this section in the `CompactlySupportedContinuousMap` namespace.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 21]
```diff
@@ -0,0 +1,714 @@
...
+      continuous_toFun := f.continuous
+      hasCompactSupport' := hasCompactSupport_of_compactSpace f
+        }
+  invFun f := f
+  left_inv _ := rfl
+  right_inv _ := rfl
+
+/-- A continuous function on a compact space has automatically compact support. This is not an
+instance to avoid type class loops. -/
+lemma compactlySupportedContinuousMapClass.ofCompact {G : Type*} [FunLike G α β]
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:147]:
```suggestion
lemma _root_.compactlySupportedContinuousMapClass.ofCompact (G : Type*) [FunLike G α β]
```
To avoid the full name `CompactlySupportedContinuousMap.compactlySupportedContinuousMapClass.ofCompact`. Also, make `G` explicit as there is no way to guess it.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 22]
```diff
@@ -0,0 +1,714 @@
...
+    SMulCommClass R C_c(α, β) C_c(α, β) where
+  smul_comm r f g := by
+    ext
+    simp only [smul_eq_mul, coe_smul, coe_mul, Pi.smul_apply, Pi.mul_apply]
+    rw [← smul_eq_mul, ← smul_eq_mul, smul_comm]
+
+end AlgebraicStructure
+
+section ZeroAtInfty
+
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:376]: You should exit the namespace `CompactlySupportedContinuousMap` for this section, as it has broader application range, and also for the other sections which are about `CompactlySupportedContinuousMapClass`.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 23]
```diff
@@ -0,0 +1,714 @@
...
+variable [PseudoMetricSpace β] [Zero β] [FunLike F α β] [CompactlySupportedContinuousMapClass F α β]
+
+protected theorem bounded (f : F) : ∃ C, ∀ x y : α, dist ((f : α → β) x) (f y) ≤ C := by
+  obtain ⟨C, hC⟩ := Metric.isBounded_iff_nndist.mp
+    ((hasCompactSupport f).isCompact_range (map_continuous f)).isBounded
+  use C
+  intro x y
+  exact hC (Set.mem_range_self x) (Set.mem_range_self y)
+
+
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:434]:
```suggestion
```

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 24]
```diff
@@ -0,0 +1,714 @@
...
+      continuous_toFun := (map_continuous f).star
+      hasCompactSupport' := by
+        rw [HasCompactSupport, tsupport]
+        simp only
+        have support_star : (Function.support fun (x : α) => star (f x)) = Function.support f := by
+          ext x
+          simp only [Function.mem_support, ne_eq, star_eq_zero]
+        rw [support_star]
+        exact f.2
+    }
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:572]:
```suggestion
        exact f.2 }
```

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 25]
```diff
@@ -0,0 +1,714 @@
...
+  (map_continuous f).uniformContinuous_of_tendsto_cocompact (zero_at_infty_of_hasCompactSupport f)
+
+end Uniform
+
+/-! ### Metric structure
+
+When `β` is a metric space, then every element of `C_c(α, β)` is bounded, and so there is a natural
+inclusion map `CompactlySupportedContinuousMap.toBCF : C_c(α, β) → (α →ᵇ β)`. Via this map
+`C_c(α, β)` inherits a metric as the pullback of the metric on `α →ᵇ β`. Moreover, this map has
+closed range in `α →ᵇ β` and consequently `C_c(α, β)` is a complete space whenever `β` is complete.
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:417]: I don't think that's true: the closure of functions with compact support is rather functions tending to zero at infinity, so `C_c(α, β)` is not complete. And in fact the topology you're putting here is not the "right" topology on `C_c(α, β)`, so this metric structure should probably not be registered as an instance. Maybe drop this section from the PR, and come back to it later as there is some design to be carefully thought through?

File: Mathlib/Topology/Support.lean [hunk 26]
```diff
@@ -303,13 +303,26 @@ theorem continuous_extend_one [TopologicalSpace β] {U : Set α'} (hU : IsOpen U
 
 end HasCompactMulSupport
 
+section Compact
+
+variable {γ : Type*} [TopologicalSpace α] [CompactSpace α] [One γ] [TopologicalSpace γ]
```
[the remark this answers is not in the document]
Comment (yoh-tanimoto) [reply Mathlib/Topology/Support.lean]: I see, thanks for your suggestion.

**Comment by yoh-tanimoto** [comment]
I removed all instance names as suggested, except those that are used later. I guess the mathlib convention has been recently changed? (I copied the most of instance names from `ZeroAtInfty`)

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 22 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:374]: I move the section at the end out of `CompactlySupportedContinuousMap`.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 20 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:425]: Sorry, I don't know how to do this. Some results are about `F`, but when I move them out of `CompactlySupportedContinuousMap` and `under `CompactlySupportedContinuousMapClass`, some notations such as `f.toBCF` are no longer valid. Could you help?

Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:425]: actually, in accordance with your comment below, I removed the section `Metric`, so this is no longer a problem.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 25 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:415]: OK. I made another PR #12629 where I defined a subtype of compactly supported functions. I agree that `C_c` should be given a different topology, maybe the one similar to that for test functions? I removed all the part referring to metric.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 19 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:380]: [HasCompactSupport.is_zero_at_infty](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UniformSpace/Compact.html#HasCompactSupport.is_zero_at_infty) assumes` [UniformSpace α]`. I guess this assumption is unnecessary? I wrote a lemma in `Topology/Support`. What should I do with the file `Topology.UniformSpace.Compact`?

Comment (sgouezel) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean]: Yes, the current assumption if `UniformSpace` is not necessary at all, and the lemma is not in the right file. You should move the lemma to the file `Topology/Support`, but not change its name (and not change its proof, because it already works perfectly fine -- you can see that your version of the proof is a little less efficient).

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 5 above)
Comment (sgouezel) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean]: I mean something like
```
instance [Zero β] [TopologicalSpace γ] [SMulZeroClass γ β] [ContinuousSMul γ β]
    {F : Type*} [FunLike F α γ] [ContinuousMapClass F α γ] : SMul F C_c(α, β) where
  smul f g :=
    ⟨⟨fun x ↦ f x • g x, (map_continuous f).smul g.continuous⟩, g.hasCompactSupport'.smul_left⟩
```
The space on the right of the action is always `C_c(α, β)`, but the space on the left is any space of continuous functions taking values in a space gamma acting continuously on beta.

Note that for this to work you will need to change the assumptions in the section `DistribMulAction` of the file `Topology.Support`: it should be replaced with the more general
```
section SMulZeroClass

variable [TopologicalSpace α] [Zero M] [SMulZeroClass R M]
variable {f : α → R} {f' : α → M} {x : α}

theorem HasCompactSupport.smul_left (hf : HasCompactSupport f') : HasCompactSupport (f • f') := by
  rw [hasCompactSupport_iff_eventuallyEq] at hf ⊢
  exact hf.mono fun x hx => by simp_rw [Pi.smul_apply', hx, Pi.zero_apply, smul_zero]
#align has_compact_support.smul_left HasCompactSupport.smul_left

end SMulZeroClass
```

Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean]: I see, I just changed as you suggested.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 19 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean]: I did it, except that I did not copy the `#align` lines. I hope that is fine.

Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean]: sorry, I didn't know that it needs to be there after being moved. I restored it.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 27]
```diff
@@ -0,0 +1,551 @@
...
+
+variable [TopologicalSpace β] [Zero β] [FunLike F α β] [CompactlySupportedContinuousMapClass F α β]
+
+instance : FunLike C_c(α, β) α β where
+  coe f := f.toFun
+  coe_injective' f g h := by
+    obtain ⟨⟨_, _⟩, _⟩ := f
+    obtain ⟨⟨_, _⟩, _⟩ := g
+    congr
+
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:88]: Can you add here the lemma
```
protected lemma hasCompactSupport (f : C_c(α, β)) : HasCompactSupport f := f.hasCompactSupport'
```
to make sure that `f.hasCompactSupport` works whenever `f : C_c(α, β)`?

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 28]
```diff
@@ -0,0 +1,551 @@
...
+instance : CompactlySupportedContinuousMapClass C_c(α, β) α β where
+  map_continuous f := f.continuous_toFun
+  hasCompactSupport f := f.hasCompactSupport'
+
+instance : CoeTC F C_c(α, β) :=
+  ⟨fun f =>
+    { toFun := f
+      continuous_toFun := map_continuous f
+      hasCompactSupport' := hasCompactSupport f }⟩
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:97]: You are in the namespace `CompactlySupportedContinuousMap`, so you shouldn't put anything on a generic `CompactlySupportedContinuousMapClass` here. Instead, once you are done with everything on `CompactlySupportedContinuousMap` (i.e., close to the end of the file, after the line `end CompactlySupportedContinuousMap`), open the namespace `CompactlySupportedContinuousMapClass` and put it there. A good way to see what needs moving is removing `[FunLike F α β] [CompactlySupportedContinuousMapClass F α β]` from the variables line above.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 29]
```diff
@@ -0,0 +1,551 @@
...
+  map_continuous := map_continuous
+  hasCompactSupport := by
+    intro f
+    exact hasCompactSupport_of_compactSpace f
+
+end Basics
+
+/-! ### Algebraic structure
+
+Whenever `β` has the structure of continuous addtive monoid and a compatible topological structure,
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:156]:
```suggestion
Whenever `β` has the structure of continuous additive monoid and a compatible topological structure,
```

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 30]
```diff
@@ -0,0 +1,551 @@
...
+
+@[simp]
+theorem coe_smulc [MulZeroClass β] [ContinuousMul β] (f : C(α, β)) (g : C_c(α, β)) :
+    ⇑(f • g) = f * g :=
+  rfl
+
+@[simp]
+theorem smulc_apply [MulZeroClass β] [ContinuousMul β] (f : C(α, β)) (g : C_c(α, β)) :
+    (f • g) x = f x * g x :=
+  rfl
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:208]: These should rather be stated in the general setting of the instance above.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 31]
```diff
@@ -0,0 +1,551 @@
...
+
+section Star
+
+/-! ### Star structure
+
+It is possible to equip `C_c(α, β)` with a pointwise `star` operation whenever there is a continuous
+`star : β → β` for which `star (0 : β) = 0`. We don't have quite this weak a typeclass, but
+`StarAddMonoid` is close enough.
+
+The `StarAddMonoid` and `NormedStarGroup` classes on `C_c(α, β)` are inherited from their
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:395]: There is no `NormedStarGroup` any more, right?

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 32]
```diff
@@ -0,0 +1,551 @@
...
+-/
+
+
+variable {δ : Type*} [TopologicalSpace β] [TopologicalSpace γ] [TopologicalSpace δ]
+
+local notation α " →co " β => CocompactMap α β
+
+section
+
+variable [T2Space γ] [Zero δ]
```
[the remark this answers is not in the document]
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:462]: I tried, there is also an option to assume `[R1Space β]`. I don't know whether this works without any assumption. Which one is better? Or both?

```lean
variable [R1Space β] [Zero δ]

/-- Composition of a continuous function with compact support with a cocompact map from an `[R1Space]`
yields another continuous function with compact support. -/
def comp (f : C_c(γ, δ)) (g : β →co γ) : C_c(β, δ) where
  toContinuousMap := (f : C(γ, δ)).comp g
  hasCompactSupport' := by
    simp only [ContinuousMap.toFun_eq_coe, ContinuousMap.coe_comp, ContinuousMap.coe_coe]
    rw [HasCompactSupport]
    have hsuppfc : (Function.support f)ᶜ ∈ Filter.cocompact γ := by
      rw [Filter.mem_cocompact]
      use tsupport f
      constructor
      · exact f.2
      · simp only [Set.compl_subset_compl, Function.support_subset_iff, ne_eq]
        intro x hx
        push_neg at hx
        exact Set.mem_of_subset_of_mem subset_closure (Function.mem_support.mpr hx)
    apply IsCompact.of_isClosed_subset _ isClosed_closure
    rw [Function.support_comp_eq_preimage]
    obtain ⟨K, hK⟩ := Filter.mem_cocompact.mp (g.cocompact_tendsto' hsuppfc)
    simp only [ContinuousMap.toFun_eq_coe, CocompactMap.coe_toContinuousMap, Set.preimage_compl,
      Set.compl_subset_compl] at hK
    exact IsCompact.of_isClosed_subset (IsCompact.closure hK.1) isClosed_closure (closure_mono hK.2)
```

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 33]
```diff
@@ -0,0 +1,551 @@
...
+
+## Main definitions and results
+
+This file contains various instances such as `Add`, `Mul`, `SMul C(α, β) C_c(α, β)`.
+When `β` has more structures, `C_c(α, β)` inherits such structures as `AddCommGroup`,
+`NonUnitalRing`, `NormedSpace` and `CstarRing`.
+
+When the domain `α` is compact, `ContinuousMap.liftCompactlySupported` gives the identification
+`C(α, β) ≃ C_c(α, β)`. When the codomain is a metric space, every continuous compactly supported map
+is a bounded continuous function by `bounded`.
```
[the remark this answers is not in the document]
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:26]: yes, sorry, I forgot to remove it as well.

File: Mathlib/Topology/Support.lean [hunk 34]
```diff
@@ -308,15 +308,42 @@ theorem continuous_extend_one [TopologicalSpace β] {U : Set α'} (hU : IsOpen U
...
+
 end HasCompactMulSupport
 
+section Compact
+
+variable [CompactSpace α] [One γ] [TopologicalSpace γ]
+
+/-- In a compact space `α`, any continuous function has compact support. -/
+@[to_additive]
+theorem hasCompactMulSupport_of_compactSpace (f : α → γ) :
```
[the remark this answers is not in the document]
Comment (yoh-tanimoto) [reply Mathlib/Topology/Support.lean]: this gives the error "to_additive: can't transport hasCompactMulSupport.of_compactSpace to itself.". What should I do?

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 30 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:208]: What do you mean by "in the general setting"? They are stated just below the definition of the instance `SMul F C_c(α, β)`.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 31 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:395]: yes. I remove this and also the comment on C⋆-ring.

File: Mathlib/Topology/Support.lean (hunk 34 above)
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Topology/Support.lean:333]: Sorry, it should have been
```suggestion
theorem HasCompactMulSupport.of_compactSpace (f : α → γ) :
```

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 30 above)
Comment (sgouezel) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:210]: Here, these lemmas are stated for `(f : C(α, β)) (g : C_c(α, β))`. They should be for `(f : F) (g : C_c(α, β))`, where `F` is like in the instance (and the multiplication will be replaced by •, probably).

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 32 above)
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:463]: Does it work for [R1Space gamma]?

[the remark this answers is not in the document]
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:463]: I am not sure. I don't think [IsCompact.isClosed](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Separation.html#IsCompact.isClosed) is valid for `[R1Space X]`, I think a counterexample is any compact R1Space `X`, choosing a point `x : X`, artificially adding a point `y` , considering the space `X ∪ {y}`and declaring that `x` and `y` are indistinguishable. `X` is still compact (any open cover has a finite subcover), but `X` is clearly not closed. So I don't know how to use `[R1Space γ]`. Any idea?

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 27 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:88]: yes, done.

**Comment by yoh-tanimoto** [comment]
I removed the porting note on `HasCompactSupport.is_zero_at_infty`
"-- Porting note: move to src/topology/support.lean once the port is over", as indeed I moved it.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 30 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:210]: I see. `coe_smulc` now becomes `⇑(f • g) = fun x => f x • g x`, as this seems to be the only thing that makes sense. Is this useful?

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 28 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:99]: I move everything referring to `CompactlySupportedContinuousMapClass` under the namespace.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 32 above)
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean]: In fact there is no need for any separation assumption, since the sets we consider (`tsupport _`) are both compact and closed, so their preimages are both compact and closed also, and we never need that the closure of a compact set is compact. I have pushed a proof.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 35]
```diff
@@ -0,0 +1,554 @@
...
+
+variable [TopologicalSpace β] (x : α)
+
+instance [Zero β] : Zero C_c(α, β) where
+  zero := { toFun := (0 : C(α, β))
+            continuous_toFun := (0 : C(α, β)).2
+            hasCompactSupport' := by
+              rw [HasCompactSupport, tsupport]
+              simp only [ContinuousMap.coe_zero, Function.support_zero', closure_empty,
+                isCompact_empty] }
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:157]:
```suggestion
            hasCompactSupport' := by simp [HasCompactSupport, tsupport] }
```

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 36]
```diff
@@ -0,0 +1,554 @@
...
+
+variable [AddGroup β] [TopologicalAddGroup β] (f g : C_c(α, β))
+
+instance : Neg C_c(α, β) where
+  neg f := {  toFun := -f.1
+              continuous_toFun := map_continuous (-f.1)
+              hasCompactSupport' := by
+                rw [HasCompactSupport, tsupport]
+                simp only [ContinuousMap.coe_neg, Function.support_neg']
+                exact f.2 }
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:248]:
```suggestion
  neg f := { toFun := -f.1
             continuous_toFun := map_continuous (-f.1)
             hasCompactSupport' := by simpa [HasCompactSupport, tsupport] using f.2 }
```

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 37]
```diff
@@ -0,0 +1,554 @@
...
+  sub f g := {  toFun := f.1 - g.1
+                continuous_toFun := map_continuous (f.1 - g.1)
+                hasCompactSupport' := by
+                  rw [HasCompactSupport, tsupport]
+                  simp only [coe_toContinuousMap]
+                  rw [sub_eq_add_neg]
+                  apply HasCompactSupport.add f.2
+                  rw [HasCompactSupport, tsupport]
+                  simp only [ContinuousMap.coe_neg, Function.support_neg']
+                  exact g.2 }
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:267]:
```suggestion
  sub f g := { toFun := f.1 - g.1
               continuous_toFun := map_continuous (f.1 - g.1)
               hasCompactSupport' := by 
                 simpa [sub_eq_add_neg] using HasCompactSupport.add f.2 (-g).2 }
```

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 38]
```diff
@@ -0,0 +1,554 @@
...
+theorem coe_smulc [Zero β] [TopologicalSpace γ] [SMulZeroClass γ β] [ContinuousSMul γ β]
+    {F : Type*} [FunLike F α γ] [ContinuousMapClass F α γ] (f : F) (g : C_c(α, β)) :
+    ⇑(f • g) = fun x => f x • g x :=
+  rfl
+
+@[simp]
+theorem smulc_apply [Zero β] [TopologicalSpace γ] [SMulZeroClass γ β] [ContinuousSMul γ β]
+    {F : Type*} [FunLike F α γ] [ContinuousMapClass F α γ] (f : F) (g : C_c(α, β)) (x : α):
+    (f • g) x = f x • g x :=
+  rfl
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:517]: These ones should be in the `CompactlySupportedContinuousMap` section, because the main player here is indeed `C_c(α, β)`.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 39]
```diff
@@ -0,0 +1,554 @@
...
+
+/-- A continuous function on a compact space has automatically compact support. This is not an
+instance to avoid type class loops. -/
+lemma _root_.compactlySupportedContinuousMapClass.ofCompact (G : Type*) [FunLike G α β]
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:521]:
```suggestion
lemma of_compactSpace (G : Type*) [FunLike G α β]
```
You're already in the right namespace.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 40]
```diff
@@ -0,0 +1,554 @@
...
+
+end Uniform
+
+section ZeroAtInfty
+
+open ZeroAtInfty
+
+variable [TopologicalSpace β] [TopologicalSpace γ] [Zero γ]
+variable [FunLike F β γ] [CompactlySupportedContinuousMapClass F β γ]
+
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:547]: Could you instead write down the instance that `F` is a `ZeroAtInftyContinuousMapClass`?

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 32 above)
[the remark this answers is not in the document]
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean]: very nice, thank you!

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 38 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:505]: I move them back.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 40 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:535]: done.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 41]
```diff
@@ -0,0 +1,541 @@
...
+  smul f g :=
+    ⟨⟨fun x ↦ f x • g x, (map_continuous f).smul g.continuous⟩, g.hasCompactSupport'.smul_left⟩
+
+@[simp]
+theorem coe_smulc [Zero β] [TopologicalSpace γ] [SMulZeroClass γ β] [ContinuousSMul γ β]
+    {F : Type*} [FunLike F α γ] [ContinuousMapClass F α γ] (f : F) (g : C_c(α, β)) :
+    ⇑(f • g) = fun x => f x • g x :=
+  rfl
+
+@[simp]
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:189]:
```suggestion
```
No need for the simp attribute here, as this can be deduced by simp from the previous one.

File: Mathlib/Topology/Support.lean [hunk 42]
```diff
@@ -327,17 +354,17 @@ theorem HasCompactMulSupport.mul (hf : HasCompactMulSupport f) (hf' : HasCompact
...
 
 theorem HasCompactSupport.smul_left (hf : HasCompactSupport f') : HasCompactSupport (f • f') := by
   rw [hasCompactSupport_iff_eventuallyEq] at hf ⊢
   exact hf.mono fun x hx => by simp_rw [Pi.smul_apply', hx, Pi.zero_apply, smul_zero]
 #align has_compact_support.smul_left HasCompactSupport.smul_left
 
-end DistribMulAction
+end SMulZeroClass
 
 section SMulWithZero
```
Comment (sgouezel) [inline Mathlib/Topology/Support.lean:369]: In the next section, you can remove `HasCompactSupport.smul_left'`, as it is superseded by the new version of `HasCompactSupport.smul_left`. Well, don't remove it, instead add a deprecated alias to `HasCompactSupport.smul_left`.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 43]
```diff
@@ -0,0 +1,541 @@
...
+
+/-- Coercion to a function as a `AddMonoidHom`. Similar to `AddMonoidHom.coeFn`. -/
+def coeFnMonoidHom [AddMonoid β] [ContinuousAdd β] : C_c(α, β) →+ α → β where
+  toFun f := f
+  map_zero' := coe_zero
+  map_add' := coe_add
+
+instance [Zero β] {R : Type*} [Zero R] [SMulWithZero R β] [ContinuousConstSMul R β] :
+    SMul R C_c(α, β) :=
+  ⟨fun r f => ⟨⟨r • ⇑f, Continuous.const_smul f.continuous r⟩, HasCompactSupport.smul_left' f.2⟩⟩
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:223]:
```suggestion
instance [Zero β] {R : Type*} [SMulZeroClass R β] [ContinuousConstSMul R β] :
    SMul R C_c(α, β) :=
  ⟨fun r f => ⟨⟨r • ⇑f, Continuous.const_smul f.continuous r⟩, HasCompactSupport.smul_left f.2⟩⟩
```
No need for `SMulWithZero`, you can do with the weaker `[SMulZeroClass R β]`. Can you fix the next lemmas acordingly?

File: Mathlib/Topology/Support.lean (hunk 42 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/Support.lean:369]: I use `@[deprecated]` and removed the proof, then I leave `#align`. Is this fine?

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 43 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean]: done.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 44]
```diff
@@ -0,0 +1,540 @@
...
+class CompactlySupportedContinuousMapClass (F : Type*) (α β : outParam <| Type*)
+    [TopologicalSpace α] [Zero β] [TopologicalSpace β] [FunLike F α β]
+    extends ContinuousMapClass F α β : Prop where
+  /-- Each member of the class has compact support. -/
+  hasCompactSupport (f : F) : HasCompactSupport f
+
+end
+
+export CompactlySupportedContinuousMapClass (hasCompactSupport)
+
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:74]:
```suggestion
export CompactlySupportedContinuousMapClass (hasCompactSupport)

```
I'm not sure it's reasonable to export this in the root namespace.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 45]
```diff
@@ -0,0 +1,540 @@
...
+    ⟨⟨fun x ↦ f x • g x, (map_continuous f).smul g.continuous⟩, g.hasCompactSupport'.smul_left⟩
+
+@[simp]
+theorem coe_smulc [Zero β] [TopologicalSpace γ] [SMulZeroClass γ β] [ContinuousSMul γ β]
+    {F : Type*} [FunLike F α γ] [ContinuousMapClass F α γ] (f : F) (g : C_c(α, β)) :
+    ⇑(f • g) = fun x => f x • g x :=
+  rfl
+
+theorem smulc_apply [Zero β] [TopologicalSpace γ] [SMulZeroClass γ β] [ContinuousSMul γ β]
+    {F : Type*} [FunLike F α γ] [ContinuousMapClass F α γ] (f : F) (g : C_c(α, β)) (x : α):
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:190]:
```suggestion
    {F : Type*} [FunLike F α γ] [ContinuousMapClass F α γ] (f : F) (g : C_c(α, β)) (x : α) :
```

**Review by sgouezel — COMMENTED** [review]
This looks very good. Thanks, and thanks for bearing for me!
bors d+

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 46]
```diff
@@ -0,0 +1,540 @@
...
+theorem coe_copy (f : C_c(α, β)) (f' : α → β) (h : f' = f) : ⇑(f.copy f' h) = f' :=
+  rfl
+
+theorem copy_eq (f : C_c(α, β)) (f' : α → β) (h : f' = f) : f.copy f' h = f :=
+  DFunLike.ext' h
+
+theorem eq_of_empty [IsEmpty α] (f g : C_c(α, β)) : f = g :=
+  ext <| IsEmpty.elim ‹_›
+
+/-- A continuous function on a compact space has automatically compact support. -/
```
Comment (j-loreaux) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:127]:
```suggestion
/-- A continuous function on a compact space automatically has compact support. -/
```

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 47]
```diff
@@ -0,0 +1,540 @@
...
+
+/-- the product of `f : F` assuming `ContinuousMapClass F α γ` and `ContinuousSMul γ β` and
+`g : C_c(α, β)` is in `C_c(α, β)` -/
+instance [Zero β] [TopologicalSpace γ] [SMulZeroClass γ β] [ContinuousSMul γ β]
+    {F : Type*} [FunLike F α γ] [ContinuousMapClass F α γ] : SMul F C_c(α, β) where
+  smul f g :=
+    ⟨⟨fun x ↦ f x • g x, (map_continuous f).smul g.continuous⟩, g.hasCompactSupport'.smul_left⟩
+
+@[simp]
+theorem coe_smulc [Zero β] [TopologicalSpace γ] [SMulZeroClass γ β] [ContinuousSMul γ β]
```
Comment (j-loreaux) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:184]: Can you explain why this is called `coe_smulc`? I couldn't figure it out. What does the `c` mean? Probably adding a docstring about it would be nice. Sorry if this was addressed in earlier reviews; I didn't read them all.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 48]
```diff
@@ -0,0 +1,540 @@
...
+instance [NonUnitalCommSemiring β] [TopologicalSemiring β] :
+    NonUnitalCommSemiring C_c(α, β) :=
+  DFunLike.coe_injective.nonUnitalCommSemiring _ coe_zero coe_add coe_mul fun _ _ => rfl
+
+instance [NonUnitalNonAssocRing β] [TopologicalRing β] :
+    NonUnitalNonAssocRing C_c(α, β) :=
+  DFunLike.coe_injective.nonUnitalNonAssocRing _ coe_zero coe_add coe_mul coe_neg coe_sub
+    (fun _ _ => rfl) fun _ _ => rfl
+
+instance instNonUnitalRing [NonUnitalRing β] [TopologicalRing β] : NonUnitalRing C_c(α, β) :=
```
Comment (j-loreaux) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:324]: Why are this and the following instance named, but none of the others are? Let's be consistent. The new automated instance naming scheme is pretty good, so maybe let's not name them manually.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 49]
```diff
@@ -0,0 +1,540 @@
...
+  DFunLike.coe_injective.nonUnitalRing _ coe_zero coe_add coe_mul coe_neg coe_sub (fun _ _ => rfl)
+    fun _ _ => rfl
+
+instance instNonUnitalCommRing [NonUnitalCommRing β] [TopologicalRing β] :
```
Comment (j-loreaux) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:328]: ditto

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 50]
```diff
@@ -0,0 +1,540 @@
...
+  star_smul k f := ext fun x => star_smul k (f x)
+
+end StarModule
+
+section StarRing
+
+variable [NonUnitalSemiring β] [StarRing β] [TopologicalSpace β] [ContinuousStar β]
+  [TopologicalSemiring β]
+
+instance : StarRing C_c(α, β) :=
```
Comment (j-loreaux) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:406]: Can you please add a `TrivialStar` instance under the assumption `[TrivialStar β]`?

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean [hunk 51]
```diff
@@ -0,0 +1,540 @@
...
+When `β` has more structures, `C_c(α, β)` inherits such structures as `AddCommGroup`,
+`NonUnitalRing`  and `StarRing`.
+
+When the domain `α` is compact, `ContinuousMap.liftCompactlySupported` gives the identification
+`C(α, β) ≃ C_c(α, β)`.
+
+## TODO
+
+* Create more intances of algebraic structures (e.g., `NonUnitalSemiring`) once the necessary
+  type classes (e.g., `TopologicalRing`) are sufficiently generalized.
```
Comment (j-loreaux) [inline Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:29]: I think you copied this from another file and it's no longer applicable.

**Review by j-loreaux — COMMENTED** [review]
@yoh-tanimoto Thanks for your hard work on this, and sorry about not reviewing sooner; I've been quite busy. Also, thanks @sgouezel for your reviews!

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 47 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:182]: "c" is for Continuous. I thought it would be nice to remember that `SMul` is defined for `ContinuousMapClass F α γ`, not just `Funlike F α γ`. But if you don't think it is necessary, I will remove it.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 50 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:404]: done.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 51 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean:29]: removed.

File: Mathlib/Topology/ContinuousFunction/CompactlySupported.lean (hunk 49 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousFunction/CompactlySupported.lean]: done.

**Comment by yoh-tanimoto** [comment]
@sgouezel thanks to you for reviewing and guiding me! I learnt a lot in this PR.

@j-loreaux thanks for your time! Please let me know about the naming of `coe_smulc` above.

**Comment by sgouezel** [comment]
@yoh-tanimoto, when you're done with the comments, you should set the PR back to `awaiting-review`, as otherwise it doesn't show up on the queue and people won't comment on it.

**Comment by sgouezel** [comment]
Let's get this in. Thanks!
bors r+
